US07282588B2
1,1-dimethylethyl 4-(5-{4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate
To a solution of 1,1-dimethylethyl 4-(5-{4-[3-(4-aminophenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate (0.326 mmol) in pyridine (8 ml) under argon at 0° C. was added isopropenyl chloroformate (1.31 mmol) portionwise over 3 hours maintaining the reaction temperature at 0° C. The resulting solution was concentrated, purified by reverse-phase. This intermediate was dissolved in THF (10 ml) and dimethylamine (2M in THF, 20 ml) was added. After heating for 2 hours at 50° C., concentration in vacuo provided the title product (27%) as a yellow solid which was used without further purification. ESMS [M+H]+: 623.2.

reactant | 1,1-dimethylethyl 4-(5-{4-[3-(4-aminophenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate | 0.326 mmol | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C | C30H33N9O2
reactant | isopropenyl chloroformate | 1.31 mmol | ClC(=O)OC(=C)C | C4H5ClO2
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1,1-dimethylethyl 4-(5-{4-[3-(4-{[(dimethylamino)carbonyl]amino}phenyl)-1-methyl-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-pyrimidinyl)-1-piperazinecarboxylate | 27% | CN(C(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)C)C | C33H38N10O3
